US05703110
Methyl 2-ethylamino-1-[(2'-cyanobiphenyl-4-yl)methyl]-benzimidazole-7-carboxylate
The title compound was prepared as colorless crystals (3.2 g, 32%) according to the procedure for Working Example 8 from methyl 2-[[(2'-cyanobiphenyl-4-yl)methyl]amino]-3-(3-ethylthioureido)benzoate (10.5 g), which was synthesized from methyl 3-amino-2-[[(2'-cyanobiphenyl-4-yl)methyl]amino]benzoate in substantially the same manner as Reference Example 5.

reactant | methyl 2-[[(2'-cyanobiphenyl-4-yl)methyl]amino]-3-(3-ethylthioureido)benzoate | 10.5 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CNC1=C(C(=O)OC)C=CC=C1NC(=S)NCC | C25H24N4O2S
reactant | methyl 3-amino-2-[[(2'-cyanobiphenyl-4-yl)methyl]amino]benzoate | NC=1C(=C(C(=O)OC)C=CC1)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C22H19N3O2
product | Methyl 2-ethylamino-1-[(2'-cyanobiphenyl-4-yl)methyl]-benzimidazole-7-carboxylate | C(C)NC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=CC=C2)C(=O)OC | C25H22N4O2
